US05070089
Methyl 4-(2-dimethylaminobenzyl)-1-piperazinecarbodithioate (Com. No. 13)
In 20 ml of acetone, 2.06 g (10 mmol.) of 2-dimethylaminobenzyl chloride hydrochloride, 1.76 g (10 mmol.) of methyl piperazinecarbodithioate, and 1.06 g (10 mmol.) of sodium carbonate were stirred overnight at room temperature. Acetone was distilled off under reduced pressure. Water was added to the residue. The aqueous mixture was extracted with ether. The ether portion was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill of the solvent. The residue was purified by means of silica gel column and then recrystallized from ether to give 1.32 g of the desired compound as a white crystalline product, m.p. 90°-91° C., yield 42.7%.

reactant | 2-dimethylaminobenzyl chloride hydrochloride | 10 mmol, 2.06 g | Cl.CN(C1=C(CCl)C=CC=C1)C
reactant | methyl piperazinecarbodithioate | 10 mmol, 1.76 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | sodium carbonate | 10 mmol, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | Methyl 4-(2-dimethylaminobenzyl)-1-piperazinecarbodithioate | 1.32 g, yield 42.7% | CN(C1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1)C | C15H23N3S2
